US04133726
4-Aminodiphenylamine (p-Semidine)
The apparatus described in EXAMPLE 1 above was employed. Two liters of solution containing 20.0 grams (0.215 mole) of aniline, 54.4 grams (0.2 mole) of tetra-n-propylammonium tetra-fluoroborate in acetonitrile was charged to the reservoir. A similar solution (50 milliliters) but without the aniline was charged to each of first and second secondary electrode compartments (3b and 4b). The flow rate of the solution from the reservoir, as determined by the flow meter, was 30 milliliters per minute; the first face (2a) of working electrode 2 current was 180 milliamperes at +1.2 volts versus the saturated calomel electrode (with occasional cathodic pulses to restore electrode activity); and the second and opposite face (2b) of working electrode 2 current was 20 milliamperes at -0.5 volt versus the saturated calomel electrode. The electrolysis was conducted over a period of 1.11 hours. The resulting sequentially electrolyzed electrolysis medium was collected and the solvent evaporated in vacuo to yield a residue which was agitated with hexane to remove unreacted aniline. The small quantity of oil remaining after the extraction by hexane was shown to be 4-aminodiphenylamine via gas chromatographic analysis and comparison with an authentic sample.

reactant | aniline | 0.215 mole, 20.0 grams | NC1=CC=CC=C1 | C6H7N
reactant | hexane | CCCCCC | C6H14
reactant | acetonitrile | C(C)#N | C2H3N
catalyst | tetra-n-propylammonium tetra-fluoroborate | 0.2 mole, 54.4 grams | F[B-](F)(F)F.C(CC)[N+](CCC)(CCC)CCC
product | 4-Aminodiphenylamine | C1=CC=C(C=C1)NC2=CC=C(C=C2)N | C12H12N2
